US07345049B2
Tetrahydrofuran solution of 1.0M borane-tetrahydrofuran complex was added dropwise to tetrahydrofuran solution (45 mL) of 2.25 g of 4-methoxycarbonyl-3-nitrobenzoic acid and stirred at room temperature for 48 hours. Methylalcohol (2 ml) and 1N hydrochloric acid (10 ml) were added thereto and concentrated. After ethyl acetate and water were added, liquid separation was conducted. The organic layer was washed with saturated sodium hydrogen carbonate and dried over sodium sulfate. After removing the solvent, the obtained crude material was purified with silica gel column chromatography to obtain 1.33 g of methyl 4-hydroxymethyl-2-nitrobenzoate.

reactant | Tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
reactant | 4-methoxycarbonyl-3-nitrobenzoic acid | 2.25 g | COC(=O)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H7NO6
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | Methylalcohol | 2 ml | CO | CH4O
product | methyl 4-hydroxymethyl-2-nitrobenzoate | 1.33 g | OCC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H9NO5
